US07214475B2
Preparation of Trifluorovinyl triethoxysilane
A dry 3-neck round bottom flask with nitrogen and stir-bar is charged with approximately (9.5 mL, 14.5 g at −78° C., 0.12 mol) iodotrifluoroethylene and 200 mL diethylether pre-cooled to −78° C. Sec-butyl lithium (89 mL, 1.4 M solution, 0.12 mol) is added dropwise over 1 hour. Solution is allowed to stir for 5 minutes at −78° C. Chlorotriethoxysilane (24.35 mL, 0.12 mol) is added over 5 minutes at −78° C. The solution is allowed to warm slowly and allowed to stir overnight. A clear yellow solution remains. Fractional distillation is used to purify the product.

reactant | iodotrifluoroethylene | 0.12 mol, 9.5 mL, 14.5 g | IC(=C(F)F)F | C2F3I
reactant | Sec-butyl lithium | 0.12 mol, 1.4 M, 89 mL | C(C)(CC)[Li]
reactant | Chlorotriethoxysilane | 0.12 mol, 24.35 mL | Cl[Si](OCC)(OCC)OCC | C6H15ClO3Si
solvent | diethylether | 200 mL | C(C)OCC | C4H10O
product | Trifluorovinyl triethoxysilane | FC(=C(F)F)[Si](OCC)(OCC)OCC | C8H15F3O3Si
